US05260423
Preparation of 7-methylsulfonyloxymethylbenzo-1,2,3-thiadiazole (Comp. No. 1.20)
To a solution of 3.32 g of 7-hydroxymethylbenzo-1,2,3-thiadiazole, 3.1 ml of triethylamine and 0.2 g of 4-dimethylaminopyridine in 50 ml of methylene chloride there is added dropwise with cooling at -5° to 0° C. a solution of 2.23 g of methanesulfonyl chloride in 15 ml of dichloromethane, and the mixture is stirred for 2 hours at room temperature. The reaction mixture is then treated with ice-water and extracted several times using dichloromethane. The combined extracts are washed with water, dried and evaporated. Chromatographic purification on silica gel (CH2Cl2) gives the title compound as a viscous resin.

reactant | 7-hydroxymethylbenzo-1,2,3-thiadiazole | 3.32 g | OCC1=CC=CC=2N=NSC21 | C7H6N2OS
reactant | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.23 g | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 7-methylsulfonyloxymethylbenzo-1,2,3-thiadiazole | CS(=O)(=O)OCC1=CC=CC=2N=NSC21 | C8H8N2O3S2
